US06320051B1
c) 2-[3-(3,4-Dichlorobenzylamino)prop-1-ylamino]-5-chloro-4-methoxyquinoline
A mixture of 2,5-dichloro-4-methoxyquinoline (0.12 g, 0.53 mmol) and N-(3-aminoprop-1-yl)-3,4-dichlorobenzylamine (0.37 g) was heated at 100° C. for 8 h. The resulting mixture was submitted to column chromatography (silica gel, MeOH:NH3:CH2Cl2 10:1:150→10:1:100) to give the title compound as a colourless film, (93 mg, 41%). δH (CDCl3) 1.70-1.87 (m, 3H+H2O), 2.74 (t, J=6.3, 2H), 3.54-3.65 (m, 2H), 3.72 (s, 2H), 3.91 (s, 3H), 5.22 (br, t, 1H), 5.90 (s, 1H), 7.10-7.17 (m, 2H), 7.28-7.37 (m, 2H), 7.40-7.45 (m, 2H); MS (ES+) 424 (MH+, 37%), 249 (100).

reactant | 2,5-dichloro-4-methoxyquinoline | 0.53 mmol, 0.12 g | ClC1=NC2=CC=CC(=C2C(=C1)OC)Cl | C10H7Cl2NO
reactant | N-(3-aminoprop-1-yl)-3,4-dichlorobenzylamine | 0.37 g | NCCCNCC1=CC(=C(C=C1)Cl)Cl | C10H14Cl2N2
reactant | MeOH NH3 CH2Cl2 | CO.N.C(Cl)Cl
product | 2-[3-(3,4-Dichlorobenzylamino)prop-1-ylamino]-5-chloro-4-methoxyquinoline | ClC=1C=C(CNCCCNC2=NC3=CC=CC(=C3C(=C2)OC)Cl)C=CC1Cl | C20H20Cl3N3O
